US06005000
Hydrogenolysis of 4-hydroxy-5-(4-isobutylphenyl)-3-phenylmethoxy-5-(1-propyl)-2(5H)-furanone was performed in a similar manner as described in the preparation of 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone to provide 200 mg (6.9% yield) of 3,4-dihydroxy-5-(4-isobutylphenyl)-5-(1-propyl)-2(5H)-furanone as an oil, which was purified by preparative TLC using hexanes/acetone/acetic acid (70/29/1) as eluant: 1H NMR (acetone-d6) δ 7.48-7.13 (m, 4H), 2.47 (d, J=10.3 Hz, 2H), 2.10-1.66 (m, 1H), 1.29-0.85 (m, 13H). 13C NMR (acetone-d6) δ 169.20, 155.54, 141.58, 137.91, 129.24, 125.32, 118.25, 83.37, 45.02, 39.60, 30.26, 22.03, 16.84, 13.63. Anal Calcd for C17H22O4 : C, 70.32; H, 7.64. Found: C, 70.01; H, 7.61.

reactant | 4-hydroxy-5-(4-isobutylphenyl)-3-phenylmethoxy-5-(1-propyl)-2(5H)-furanone | OC1=C(C(OC1(CCC)C1=CC=C(C=C1)CC(C)C)=O)OCC1=CC=CC=C1 | C24H28O4
reactant | 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone | OC=1C(OC(C1O)(C1=CC=CC=C1)C)=O | C11H10O4
product | 3,4-dihydroxy-5-(4-isobutylphenyl)-5-(1-propyl)-2(5H)-furanone | 200 mg, 6.9% yield | OC=1C(OC(C1O)(CCC)C1=CC=C(C=C1)CC(C)C)=O | C17H22O4
